US09340547B2
f) 1-Amino-3-(difluoromethyl)-N-phenyl-1H-pyrrole-2-carboxamide
1.1 ml (1.1 mmol) of a 1M solution of lithium bis(trimethylsilyl)amide was added to a solution of 3-(difluoromethyl)-N-phenyl-1H-pyrrole-2-carboxamide (100 mg, 0.42 mmol) and DPPONH2 (P,P-diphenylphosphinic amide, available from Sigma Aldrich®, cat. no. 5994-87-6) (250 mg, 1,1 mmol) in DMF (4 mL) at room temperature. A thick suspension formed and additional 4 mL of DMF were added. The mixture was stirred at room temperature for 1 hour and then it was poured into 50 mL of water and extracted with ethyl acetate. The aqueous layer was further extracted with ethyl acetate (2×). The combined organic layer was washed with water and brine and was dried over sodium sulphate, filtered and concentrated. The crude product was purified by flash chromatography (0% to 33% AcOEt/Hexanes) to yield 40 mg (38% yield) of the title compound.

reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(difluoromethyl)-N-phenyl-1H-pyrrole-2-carboxamide | 0.42 mmol, 100 mg | FC(C1=C(NC=C1)C(=O)NC1=CC=CC=C1)F | C12H10F2N2O
reactant | P,P-diphenylphosphinic amide | C1(=CC=CC=C1)P(N)(=O)C1=CC=CC=C1 | C12H12NOP
reactant | water | 50 mL | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-Amino-3-(difluoromethyl)-N-phenyl-1H-pyrrole-2-carboxamide | 40 mg, 38% yield | NN1C(=C(C=C1)C(F)F)C(=O)NC1=CC=CC=C1 | C12H11F2N3O
